US05952362
2-methyl-3-aminophenol (20.1 g, 0.163 mol) was dissolved in methylethylketone (MEK) (150 ml). Cesium carbonate (106 g, 0.326 mmol) was added in portions followed by dropwise addition of bromoacetonitrile (29.3 g, 0.245 mol) over 30 min. The mixture was stirred 14 hr at room temperature, then filtered through a coarse fritted funnel. The solids were washed with ethylacetate (2×100 ml) and the combined washings and filtrate were concentrated at reduced pressure to give 20.8 g (79% yield) of (2-methyl-3-aminophenoxy)acetonitrile which required no further purification.

reactant | 2-methyl-3-aminophenol | 0.163 mol, 20.1 g | CC1=C(C=CC=C1N)O | C7H9NO
reactant | Cesium carbonate | 0.326 mmol, 106 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | bromoacetonitrile | 0.245 mol, 29.3 g | BrCC#N | C2H2BrN
solvent | methylethylketone | 150 ml | CC(=O)CC | C4H8O
product | (2-methyl-3-aminophenoxy)acetonitrile | 20.8 g, 79% yield | CC1=C(OCC#N)C=CC=C1N | C9H10N2O
